.title Integrator 
** This component has two nodes (input and output) and attatches
* itself to global gnd (0)
* NOTE: this component requires "uic" enabled on transient analysis
*                 _______
*                |       |
*   input >------|  1/s  |-----> output
*                |_______|
*
*
*                  ||=======> voltage signal to be integrated
*                  ||    ||=> resulting time-integrated signal
.subckt INTEGRATOR input output
** Place input voltage on Lint and output its current
    Lint       input   gnd     1
    Bint    output  gnd     V=i(Lint)
    * .ic i(Lint) = 0
.ends


